US06875816B2
Ethylene/1-Octene interpolymers were prepared using the general continuous solution procedure described above. Ethylene, 1-octene, and ISOPAR-E solvent were fed into the reactor at rates of about 4.50 lbs/hour, 0.70 lbs/hour, and 30.20 lbs/hour, respectively. The temperature was maintained at about 140° C., and saturated. Examples 3 and 4 were prepared by feeding Catalyst A and Catalyst B, Armeenium borate, and MMAO-3A to the reactor to produce a catalyst concentration of 2.36 ppm, a ratio of catalyst A to catalyst B of 0.44, 53.2 ppm of Armeenium borate, and 8.6 ppm of Al according to the general procedure. Other process parameters are also recorded in Table V.

reactant | Ethylene | C=C | C2H4
reactant | 1-octene | C=CCCCCCC | C8H16
reactant | borate | B([O-])([O-])[O-]
product | Ethylene/1-Octene | C=C.C=CCCCCCC | InChI=1S/C8H16.C2H4/c1-3-5-7-8-6-4-2;1-2/h3H,1,4-8H2,2H3;1-2H2
